US05783522
3-Chloro-2-[4-chloro-3-(4-chlorophenylsulfonylamino)phenyl]-5-trifluoromethylpyridine (Table 1, Example I.167)
In a similar way to Example 37, reaction of 2.5 g of 2-(3-amino-4-chlorophenyl)-3-chloro-5-trifluoromethylpyridine and 1.9 g of 4-chlorobenzenesulfonyl chloride, and purification of the crude product by recrystallization from ether, resulted in 1.2 g of colorless crystals. Yield: 31%; melting point: 156°-157° C.

reactant | 2-(3-amino-4-chlorophenyl)-3-chloro-5-trifluoromethylpyridine | 2.5 g | NC=1C=C(C=CC1Cl)C1=NC=C(C=C1Cl)C(F)(F)F | C12H7Cl2F3N2
reactant | 4-chlorobenzenesulfonyl chloride | 1.9 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 3-Chloro-2-[4-chloro-3-(4-chlorophenylsulfonylamino)phenyl]-5-trifluoromethylpyridine | 1.2 g, Yield: 31% | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)Cl | C18H10Cl3F3N2O2S
